US04091027
8.5 g. (0.05 mole) of benzyl bromide are first added all at once and then 3.43 g. (0.034 mole) of triethylamine are added to a solution of 12 g. (0.026 mole) of tert-butyl-4-carboxy-alphaphthalimido-1-thia-3-azaspiro[4.5]decane-2-acetate in 130 ml. of anhydrous dimethylformamide. The reaction mixture is left to stand overnight at ambient temperature and then it is poured on to ice and 10 ml. of 6N hydrochloric acid are added followed by extraction with benzene. The organic phase is first washed with a 5% aqueous solution of sodium hydrogen carbonate and then with water, dried over anhydrous sodium sulfate, filtered and finally evaporated to dryness. After recrystallization from a mixture of diethyl ether and hexane (50/50), 12 g. (0.0215 mole) of tert-butyl 4-benzyloxycarbonyl-alpha-phthalimido-1-thia-3-azaspiro[4.5]decane-2-acetate are obtained. Yield: 82.7%. M.P. 165°-166° C.

reactant | benzyl bromide | 0.05 mole | C(C1=CC=CC=C1)Br | C7H7Br
reactant | triethylamine | 0.034 mole | C(C)N(CC)CC | C6H15N
reactant | tert-butyl-4-carboxy-alphaphthalimido-1-thia-3-azaspiro[4.5]decane-2-acetate | 0.026 mole | C(C)(C)(C)OC(C(C1SC2(C(N1)C(=O)O)CCCCC2)N2C(C=1C(C2=O)=CC=CC1)=O)=O | C23H28N2O6S
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | tert-butyl 4-benzyloxycarbonyl-alpha-phthalimido-1-thia-3-azaspiro[4.5]decane-2-acetate | 0.0215 mole, Yield: 82.7% | C(C1=CC=CC=C1)OC(=O)C1NC(SC12CCCCC2)C(C(=O)OC(C)(C)C)N2C(C=1C(C2=O)=CC=CC1)=O | C30H34N2O6S
